### PR TITLE
[Merged by Bors] - feat(NumberTheory/Modular): interior and closure of fundamental domain

### PR DESCRIPTION
**Pull request by loefflerd**
Show that the open and closed fundamental domains for the modular group are related by the interior / closure operations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Modular.lean [hunk 1]
```diff
@@ -511,6 +512,168 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+    · simp only [one_lt_normSq_iff]
+      refine Filter.Tendsto.eventually_const_lt hxnorm (.mono_left ?_ nhdsWithin_le_nhds)
+      apply Filter.Tendsto.norm
+      have : ContinuousAt (fun a : ℝ ↦ (UpperHalfPlane.ofComplex (a * x : ℂ) : ℂ)) 1 := by
+        apply ContinuousAt.comp
+        · fun_prop
+        · apply ContinuousAt.comp
+          · apply OpenPartialHomeomorph.continuousAt
+            simpa [UpperHalfPlane.ofComplex] using x.coe_im_pos
+          · fun_prop
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
   have : ContinuousAt (fun a : ℝ ↦ (UpperHalfPlane.ofComplex (a * x : ℂ) : ℂ)) 1 := by
        apply ContinuousAt.comp (by fun_prop)
        apply ContinuousAt.comp _ (by fun_prop)
        apply OpenPartialHomeomorph.continuousAt
        simpa [UpperHalfPlane.ofComplex] using x.coe_im_pos
```

File: Mathlib/NumberTheory/Modular.lean [hunk 2]
```diff
@@ -511,6 +512,168 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+    intro ξ hξ
+    simpa [Set.mem_preimage, Set.mem_Ici, one_le_normSq_iff] using hξ.1
+  · rw [Set.image_subset_iff] at ho1
+    have := ho1 hx
+    rw [Set.mem_preimage] at this
+    rw [abs_lt, ← Set.mem_Ioo, ← interior_Icc]
+    apply Set.mem_of_mem_of_subset this (interior_mono ?_)
+    rw [Set.image_subset_iff]
+    intro ξ hξ
+    simpa [Set.mem_preimage, Set.mem_Icc, abs_le] using hξ.2
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
· rw [Set.image_subset_iff] at ho2
    rw [one_lt_normSq_iff, ← Set.mem_Ioi, ← interior_Ici]
    apply Set.mem_of_mem_of_subset (Set.mem_preimage.mp (ho2 hx)) (interior_mono ?_)
    rw [Set.image_subset_iff]
    intro ξ hξ
    simpa [Set.mem_preimage, Set.mem_Ici, one_le_normSq_iff] using hξ.1
  · rw [Set.image_subset_iff] at ho1
    have := ho1 hx
    rw [abs_lt, ← Set.mem_Ioo, ← interior_Icc]
    apply Set.mem_of_mem_of_subset ((Set.mem_preimage.mp (ho1 hx))) (interior_mono ?_)
    rw [Set.image_subset_iff]
    intro ξ hξ
    simpa [Set.mem_preimage, Set.mem_Icc, abs_le] using hξ.2
```

File: Mathlib/NumberTheory/Modular.lean [hunk 3]
```diff
@@ -511,6 +512,168 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+
+end Topology
+
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/Modular.lean:643]:
```suggestion
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean [hunk 4]
```diff
@@ -187,4 +187,38 @@ lemma eventuallyEq_coe_comp_ofComplex {z : ℂ} (hz : 0 < z.im) :
...
+  simp_rw [← isOpenEmbedding_coe.image_mem_nhds, Metric.mem_nhds_iff] at hs ⊢
+  obtain ⟨ε, hεpos, hεs⟩ := hs
+  refine ⟨ε, hεpos, subset_trans (fun r hr ↦ ?_) hs'⟩
+  have hr' : 0 ≤ r := by
+    by_contra! hr'
+    rw [mem_ball_iff_norm, Real.norm_eq_abs, abs_lt] at hr
+    have : ‖(τ : ℂ)‖ < ε := by linarith
+    have : 0 ∈ Metric.ball (τ : ℂ) ε := by rwa [mem_ball_iff_norm', sub_zero]
+    obtain ⟨w, -, hw⟩ := hεs this
+    exact w.ne_zero hw
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean]:
```suggestion
    simpa  [UpperHalfPlane.ne_zero] using hεs this
```

File: Mathlib/NumberTheory/Modular.lean [hunk 5]
```diff
@@ -511,6 +512,168 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+  · apply Filter.Eventually.frequently
+    filter_upwards [self_mem_nhdsWithin] with a (ha : 0 < a)
+    refine mem_closure_of_one_lt_norm ?_ (by simpa using hxre)
+    suffices 1 < ‖(x : ℂ)‖ ^ 2 + a ^ 2 + 2 * a * x.im by
+      rw [← one_lt_normSq_iff]
+      convert this
+      simp [← normSq_eq_norm_sq, normSq_apply]
+      ring
+    rw [hxnorm, one_pow, add_assoc, lt_add_iff_pos_right]
+    rw [← NNReal.coe_pos] at ha
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
```

File: Mathlib/NumberTheory/Modular.lean [hunk 6]
```diff
@@ -511,6 +512,168 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+    positivity
+  · refine .mono_left ?_ nhdsWithin_le_nhds
+    rw [UpperHalfPlane.isOpenEmbedding_coe.tendsto_nhds_iff, Function.comp_def]
+    dsimp only
+    rw [show 𝓝 (x : ℂ) = 𝓝 (x + (((0 : ℝ≥0) : ℝ) : ℂ) * Complex.I) by simp]
+    apply Continuous.tendsto
+    fun_prop
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
  rw [UpperHalfPlane.isOpenEmbedding_coe.tendsto_nhds_iff, Function.comp_def,
      show 𝓝 (x : ℂ) = 𝓝 (x + (((0 : ℝ≥0) : ℝ) : ℂ) * Complex.I) by simp]
    apply Continuous.tendsto
    fun_prop
```

File: Mathlib/NumberTheory/Modular.lean [hunk 7]
```diff
@@ -511,6 +512,168 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+      have : ContinuousAt (fun a : ℝ ↦ (UpperHalfPlane.ofComplex (a * x : ℂ) : ℂ)) 1 := by
+        apply ContinuousAt.comp
+        · fun_prop
+        · apply ContinuousAt.comp
+          · apply OpenPartialHomeomorph.continuousAt
+            simpa [UpperHalfPlane.ofComplex] using x.coe_im_pos
+          · fun_prop
+      have := this.tendsto
+      rw [UpperHalfPlane.ofComplex_apply_of_im_pos (by simpa using x.coe_im_pos)] at this
+      simpa
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
    simpa [UpperHalfPlane.ofComplex_apply_of_im_pos (by simpa using x.coe_im_pos)] using 
        this.tendsto
```

File: Mathlib/NumberTheory/Modular.lean (hunk 2 above)
Comment (CBirkbeck) [inline Mathlib/NumberTheory/Modular.lean:640]:
```suggestion
lemma fdo_eq_interior_fd : 𝒟ᵒ = interior 𝒟 := by
  refine subset_antisymm (isOpen_fdo.subset_interior_iff.mpr fdo_subset_fd) ?_
  have ho1 := UpperHalfPlane.isOpenMap_re.image_interior_subset 𝒟
  have ho2 := UpperHalfPlane.isOpenMap_norm.image_interior_subset 𝒟
  intro x hx
  rw [Set.image_subset_iff] at *
  constructor
  · rw [one_lt_normSq_iff, ← Set.mem_Ioi, ← interior_Ici]
    apply Set.mem_of_mem_of_subset (Set.mem_preimage.mp (ho2 hx)) (interior_mono ?_)
    rw [Set.image_subset_iff]
    intro ξ hξ
    simpa [Set.mem_preimage, Set.mem_Ici, one_le_normSq_iff] using hξ.1
  · rw [abs_lt, ← Set.mem_Ioo, ← interior_Icc]
    apply Set.mem_of_mem_of_subset ((Set.mem_preimage.mp (ho1 hx))) (interior_mono ?_)
    rw [Set.image_subset_iff]
    intro ξ hξ
    simpa [Set.mem_preimage, Set.mem_Icc, abs_le] using hξ.2
```

**Review by CBirkbeck — COMMENTED** [review]
This all looks good, I only have these minor golfs.

File: Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean [hunk 8]
```diff
@@ -187,4 +187,37 @@ lemma eventuallyEq_coe_comp_ofComplex {z : ℂ} (hz : 0 < z.im) :
 
 end ofComplex
 
+section IsOpenMap
+
+lemma isOpenMap_re : IsOpenMap re := by
+  apply IsOpenMap.of_sections
+  intro τ
+  use fun x ↦ ⟨x - τ.re + τ, by simpa using τ.im_pos⟩
+  exact ⟨by fun_prop, by simp, by intro; simp⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean]:
```suggestion
lemma isOpenMap_re : IsOpenMap re :=
  Complex.isOpenMap_re.comp isOpenEmbedding_coe.isOpenMap
```
Maybe also add `isOpenMap_im`?

File: Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean [hunk 9]
```diff
@@ -187,4 +187,37 @@ lemma eventuallyEq_coe_comp_ofComplex {z : ℂ} (hz : 0 < z.im) :
...
+  obtain ⟨s, hs, hs'⟩ := Filter.mem_map_iff_exists_image.mp hU
+  simp_rw [← isOpenEmbedding_coe.image_mem_nhds, Metric.mem_nhds_iff] at hs ⊢
+  obtain ⟨ε, hεpos, hεs⟩ := hs
+  refine ⟨ε, hεpos, subset_trans (fun r hr ↦ ?_) hs'⟩
+  have hr' : 0 ≤ r := by
+    by_contra! hr'
+    rw [mem_ball_iff_norm, Real.norm_eq_abs, abs_lt] at hr
+    have : ‖(τ : ℂ)‖ < ε := by linarith
+    have : 0 ∈ Metric.ball (τ : ℂ) ε := by rwa [mem_ball_iff_norm', sub_zero]
+    simpa  [UpperHalfPlane.ne_zero] using hεs this
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean]:
```suggestion
    simpa [UpperHalfPlane.ne_zero] using hεs this
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean [hunk 10]
```diff
@@ -187,4 +187,37 @@ lemma eventuallyEq_coe_comp_ofComplex {z : ℂ} (hz : 0 < z.im) :
...
+
+lemma isOpenMap_re : IsOpenMap re := by
+  apply IsOpenMap.of_sections
+  intro τ
+  use fun x ↦ ⟨x - τ.re + τ, by simpa using τ.im_pos⟩
+  exact ⟨by fun_prop, by simp, by intro; simp⟩
+
+lemma isOpenMap_norm : IsOpenMap (fun τ : ℍ ↦ ‖(τ : ℂ)‖) := by
+  apply IsOpenMap.of_nhds_le
+  intro τ U hU
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean]:
```suggestion
  refine IsOpenMap.of_nhds_le fun τ U hU ↦ ?_
```
perhaps.

File: Mathlib/NumberTheory/Modular.lean [hunk 11]
```diff
@@ -511,6 +512,149 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
 
 end UniqueRepresentative
 
+section Topology
+
+private lemma one_lt_normSq_iff {x : ℂ} : 1 < normSq x ↔ 1 < ‖x‖ := by
+  rw [← one_lt_sq_iff₀ (norm_nonneg _), normSq_eq_norm_sq]
+
+private lemma one_le_normSq_iff {x : ℂ} : 1 ≤ normSq x ↔ 1 ≤ ‖x‖ := by
+  rw [← one_le_sq_iff₀ (norm_nonneg _), normSq_eq_norm_sq]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Modular.lean]: These could be useful outside this file. Maybe add them to Mathlib.Data.Complex.Basic?

File: Mathlib/NumberTheory/Modular.lean [hunk 12]
```diff
@@ -511,6 +512,149 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+    refine .inter ?_ (.inter ?_ ?_)
+    · exact isClosed_le continuous_const Complex.continuous_im
+    · exact isClosed_le continuous_const continuous_norm
+    · exact isClosed_le (continuous_abs.comp Complex.continuous_re) continuous_const
+  convert this using 1
+  ext x
+  refine ⟨fun ⟨him, hre, hnorm⟩ ↦ ⟨him.le, hre, hnorm⟩, fun ⟨him, hre, hnorm⟩ ↦ ⟨?_, hre, hnorm⟩⟩
+  rcases lt_or_eq_of_le him with him | him
+  · exact him
+  · grind [abs_re_eq_norm]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
  exact lt_of_le_of_ne' him <| by grind [abs_re_eq_norm]
```

File: Mathlib/NumberTheory/Modular.lean [hunk 13]
```diff
@@ -511,6 +512,149 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+  -- Need to show that any `x` in this set is a limit of points in `𝒟ᵒ`.
+  -- Idea is to use a line segment through the origin and `x`, and show that points
+  -- a little below `x` are in `𝒟ᵒ`. There are some annoyances due
+  -- to subtypes, etc.
+  apply mem_closure_of_frequently_of_tendsto (α := ℝ)
+      (b := 𝓝[<] 1) (f := fun t ↦ ofComplex (t * x))
+  · apply Filter.Eventually.frequently
+    simp only [fdo, Set.mem_setOf, Filter.eventually_and]
+    refine ⟨?_, ?_⟩
+    · simp only [one_lt_normSq_iff]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Modular.lean]: This can be combined with the `simp only` two lines above.

File: Mathlib/NumberTheory/Modular.lean [hunk 14]
```diff
@@ -511,6 +512,149 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+      refine Filter.Tendsto.eventually_const_lt hxnorm (.mono_left ?_ nhdsWithin_le_nhds)
+      apply Filter.Tendsto.norm
+      have : ContinuousAt (fun a : ℝ ↦ (ofComplex (a * x : ℂ) : ℂ)) 1 := by
+        refine .comp (by fun_prop) ((OpenPartialHomeomorph.continuousAt _ ?_).comp (by fun_prop))
+        simpa [ofComplex] using x.coe_im_pos
+      simpa [ofComplex_apply_of_im_pos (by simpa using x.coe_im_pos)] using
+        this.tendsto
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
      simpa [ofComplex_apply_of_im_pos (by simpa using x.coe_im_pos)] using this.tendsto
```

File: Mathlib/NumberTheory/Modular.lean [hunk 15]
```diff
@@ -511,6 +512,149 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+    · simp only [eventually_nhdsWithin_iff]
+      filter_upwards [eventually_gt_nhds zero_lt_one] with a ha ha'
+      rw [← coe_re, ofComplex_apply_of_im_pos]
+      · simp only [mul_re, ofReal_re, coe_re, ofReal_im, coe_im, zero_mul, sub_zero, abs_mul]
+        nlinarith [abs_of_nonneg ha.le, Set.mem_Iio.mp ha']
+      · simpa using mul_pos ha x.coe_im_pos
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
      rw [← coe_re, ofComplex_apply_of_im_pos <| by simpa using mul_pos ha x.coe_im_pos]
      suffices a * |x.re| < 1 / 2 by simpa [abs_of_nonneg ha.le] using this
      nlinarith [Set.mem_Iio.mp ha']
```
using `suffices` to avoid `simp only` (and inlining the side goal in `rw`)

File: Mathlib/NumberTheory/Modular.lean [hunk 16]
```diff
@@ -511,6 +512,149 @@ theorem eq_smul_self_of_mem_fdo_mem_fdo (hz : z ∈ 𝒟ᵒ) (hg : g • z ∈ 
...
+      exact Continuous.tendsto (by fun_prop) _
+    refine this.congr' ?_
+    filter_upwards [eventually_gt_nhds zero_lt_one] with a ha
+    rw [ofComplex_apply_of_im_pos (by simpa using mul_pos ha x.coe_im_pos)]
+
+open scoped NNReal in
+/-- The points on the bottom "arc" of the fundamental domain are in the closure
+of the open fundamental domain. -/
+private lemma mem_closure_of_arc {x : ℍ}
+    (hxnorm : ‖(x : ℂ)‖ = 1) (hxre : |x.re| ≤ 1 / 2) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Modular.lean]:
```suggestion
private lemma mem_closure_of_arc {x : ℍ} (hxnorm : ‖(x : ℂ)‖ = 1) (hxre : |x.re| ≤ 1 / 2) :
```

**Review by MichaelStollBayreuth — APPROVED** [review]
Some golfing suggestions. Otherwise LGTM.

File: Mathlib/NumberTheory/Modular.lean (hunk 11 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/Modular.lean]: I put them in `Mathlib.Analysis.Complex.Norm` (that was the earliest place I could find for them).

**Review by loefflerd — COMMENTED** [review]
Thanks for the review, Michael! I have made the changes as you suggested.
